US07951819B2
N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)-3-trifluoromethoxy-5-chloro-benzamide (CJS 3745)
Method H was used with 7-(3-aminophenoxy)-1H-imidazo[4,5-b]-pyridin-2(3H)-one and 3-trifluoromethoxy-5-chlorobenzoyl chloride to afford the title compound (38 mg, 38.9%). 1H-NMR (δ, ppm, DMSO-d6): 6.49 (d, 1H, HPy,5, J=5.9 Hz), 6.93-6.96 (m, 1H, Harom), 7.44 (t, 1H, Harom-5, J=8.0 Hz), 7.58 (s, 1H, Harom-2), 7.63-7.65 (m, 1H, Harom), 7.81 (d, 1H, HPy,6, J=5.9 Hz), 7.82 (m, 1H, Harom′), 7.86 (m, 1H, Harom′), 8.08 (t, 1H, Harom′, J=1.6 Hz), 10.53 (s, 1H, NHamide), 11.20 (s, 1H, NHPy7), 11.40 (s, 1H, NHPy9). LC-MS, tR=5.13 minutes, m/z: 467.05 (M+H)+, calculated for C20H13N4O4F3Cl. HRMS (EI): m/z [M+H] calculated for C20H13N4O4F3Cl: 465.0585; found: 465.0583.

reactant | 7-(3-aminophenoxy)-1H-imidazo[4,5-b]-pyridin-2(3H)-one | NC=1C=C(OC2=C3C(=NC=C2)NC(N3)=O)C=CC1 | C12H10N4O2
reactant | 3-trifluoromethoxy-5-chlorobenzoyl chloride | FC(OC=1C=C(C(=O)Cl)C=C(C1)Cl)(F)F | C8H3Cl2F3O2
product | N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)-3-trifluoromethoxy-5-chloro-benzamide | 38 mg, 38.9% | O=C1NC=2C(=NC=CC2OC=2C=C(C=CC2)NC(C2=CC(=CC(=C2)Cl)OC(F)(F)F)=O)N1 | C20H12ClF3N4O4
